US04107307
5-Ethyl-2-phenyl-4-imidazolecarboxaldehyde
The procedure of Example 18 is repeated substituting an equimolecular amount of 5-ethyl-2-phenyl-4-imidazolemethanol for the 5-methyl-2-phenyl-4-imidazolemethanol employed in that example. There is thus obtained the title compound in equally good yield.

reactant | 5-ethyl-2-phenyl-4-imidazolemethanol | C(C)C1=C(N=C(N1)C1=CC=CC=C1)CO | C12H14N2O
reactant | 5-methyl-2-phenyl-4-imidazolemethanol | CC1=C(N=C(N1)C1=CC=CC=C1)CO | C11H12N2O
product | 5-Ethyl-2-phenyl-4-imidazolecarboxaldehyde | C(C)C1=C(N=C(N1)C1=CC=CC=C1)C=O | C12H12N2O
